US04051152
1-Acetoxy-3-(1,2-dimethylheptyl)-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran
To a stirring mixture of 1-acetoxy-3-(1,2-dimethylheptyl)-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran (5.21 g., 12.6 mmole) in 35 ml. of 50% acetic acid and 10 ml. of chloroform under a nitrogen atmosphere, was added dropwise a solution of ceric ammonium nitrate (27.63 g., 50.4 mmole) in 70 ml. of 50% acetic acid. After the addition was complete, the reaction mixture was stirred over a steam bath. After 3 hours the mixture was poured onto ice with stirring. It was extracted into ether and the organic solvents were removed under reduced pressure. The residue was again taken up in ether, washed to neutrality with 5% NaHCO3, washed with water and dried over Na2SO4. Evaporation of the solvents in vacuo left 8.34 g. (23%) of crude product whose tlc showed a blue fluorescent spot (silica gel, Rf 0.66, 1:1 EtOAc/hexane).

reactant | 1-acetoxy-3-(1,2-dimethylheptyl)-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran | 12.6 mmole, 5.21 g | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C(C(CCCCC)C)C | C27H40O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Acetoxy-3-(1,2-dimethylheptyl)-7-oxo-7,8,9,10-tetrahydro-6,6,9-trimethyl-6H-dibenzo[ b,d]pyran | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3=O)C)(C)C)C(C(CCCCC)C)C | C27H38O4
